Name:  ___.          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tramadol
 
Attending: ___.
 
Chief Complaint:
Abdominal distention, back pain, fever; leukocytosis.
 
Major Surgical or Invasive Procedure:
Paracentesis x 3.

 
History of Present Illness:
This is a ___ woman with a history of ETOH abuse who 
presents with abdominal distention, back pain, fever, and 
elevated white count from Liver Clinic.  Ms. ___ was 
recently admitted to this hospital about 1 week ago for 
treatment of ascites and work-up of alcoholic hepatitis.  At 
that time she had a diagnostic and therapeutic paracentesis and 
was treated for a UTI.  She was discharged home and instructed 
to follow-up in Liver Clinic in 1 week.  On day of presentation 
to liver clinic, patient complained of worsening abdominal pain 
and low-grade fevers at home.  Her labwork was also significant 
for an elevated white count.  As such, Ms. ___ was 
admitted for work-up of fever and white count, and for treatment 
of recurrent ascites.
 
Past Medical History:
--Alcohol abuse
--Chronic back pain
 
Social History:
___
Family History:
Breast cancer in mother age ___, No IBD, liver failure.  Multiple 
relatives with alcoholism.
 
Physical Exam:
VS: 97.9, 103/73, 86, 18, 96% RA  
GEN: A/Ox3, pleasant, appropriate, well appearing  
HEENT: No temporal wasting, JVD not elevated, neck veins fill 
from above.  
CV: RRR, No MRG  
PULM: CTAB but decreased BS in R base.  
ABD: Distended and tight, diffusely tender to palpation, BS+, + 
passing flatulence.  
LIMBS: 2+ edema of the LEs to knee bilaterally ___ pulses 2+ 
bilaterally  
NEURO: No asterixis, very mild general tremor.
 
Pertinent Results:
Labs at Admission:

___ 09:47AM BLOOD WBC-26.2*# RBC-3.86* Hgb-13.0 Hct-43.3 
MCV-112* MCH-33.7* MCHC-30.0* RDW-12.7 Plt ___
___ 09:47AM BLOOD Neuts-88* Bands-1 Lymphs-2* Monos-7 Eos-1 
Baso-1 ___ Myelos-0
___ 09:20PM BLOOD ___
___ 09:47AM BLOOD UreaN-8 Creat-0.5 Na-133 K-5.1 Cl-92* 
HCO3-26 AnGap-20
___ 09:47AM BLOOD ALT-45* AST-165* LD(LDH)-345* 
AlkPhos-200* TotBili-2.0*
___ 09:47AM BLOOD Albumin-2.9* Calcium-8.1* Phos-4.0 Mg-2.2
___ 09:20PM BLOOD Ethanol-NEG Bnzodzp-NEG

Labs at Discharge:

___ 07:20AM BLOOD WBC-20.7* RBC-3.03* Hgb-10.3* Hct-32.0* 
MCV-106* MCH-33.9* MCHC-32.1 RDW-13.7 Plt ___
___ 07:20AM BLOOD ___ PTT-42.0* ___
___ 07:20AM BLOOD Glucose-96 UreaN-7 Creat-0.4 Na-125* 
K-4.4 Cl-90* HCO3-30 AnGap-9
___ 07:20AM BLOOD ALT-35 AST-131* LD(___)-265* AlkPhos-184* 
TotBili-1.9*
___ 07:20AM BLOOD Albumin-2.5* Calcium-7.2* Phos-2.6* 
Mg-2.0

Micro Data:

___ PERITONEAL FLUID GRAM STAIN- negative; FLUID 
CULTURE-PENDING; ANAEROBIC CULTURE- negative
___ STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B 
TEST- negative
___ URINE URINE CULTURE- negative
___ SWAB R/O VANCOMYCIN RESISTANT ENTEROCOCCUS- 
negative
___ STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B 
TEST- negative
___ FLUID RECEIVED IN BLOOD CULTURE BOTTLES 
Fluid Culture in Bottles- negative
___ PERITONEAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL; ANAEROBIC CULTURE- negative
___ BLOOD CULTURE Blood Culture, Routine- 
negative 
___ BLOOD CULTURE Blood Culture, 
Routine-negative 
___ URINE URINE CULTURE-FINAL {GRAM POSITIVE 
BACTERIA} INPATIENT 
___ FLUID RECEIVED IN BLOOD CULTURE BOTTLES 
negative

Imaging Results:

CTA (___):
1. No evidence of pulmonary embolism. 
2. Stable atelectasis at the right lung base. 
3. Moderate right and small left pleural effusions, unchanged. 

CTAP (___):
1. Hepatomegaly and large ascites consistent with stated history 
of liver 
disease. No evidence of portal venous thrombosis suggesting that 
the findings on the prior ultrasound may have resulted from 
extremely slow / undetectable flow.  
2. Moderate right and small left pleural effusions, increased on 
the right 
with right basilar atelectasis. 
3. Replaced right hepatic artery arising from the SMA, otherwise 
conventional arterial and venous anatomy.
 
Brief Hospital Course:
This is a ___ woman with likely alcoholic hepatitis and 
recurrent ascites who is admitted with low-grade fevers, high 
white count, and abdominal pain.
 
# ASCITES/ALC HEPATITIS/LEUKOCYTOSIS: Patient with fatty liver 
and ascites in setting of extensive drinking history and AST/ALT 
elevation >2. Discriminant function on admission was ~30.  
Patient had a paracentesis on ___ and 4L was removed; 
peritoneal fluid was negative for SBP. Diuretics were initially 
held in the setting of hyponatremia. She was treated 
supportively with nutrition, brief antibiotics for urinary tract 
infection (3-days of ceftriaxone), and therapeutic paracenteses 
x3. Her symptoms, white cell count, and total bilirubin were 
improving at time of discharge. She will follow-up with Dr. 
___ in liver clinic and with her primary care provider, Dr. 
___, in two weeks. 

# HYPONATREMIA: Likely hypovolemic hyponatremia with some 
component of euvolemic hyponatremia from liver disease. Her 
spironlactone was held and can be restarted at the discretion of 
her outpatient liver team, if necessary. Sodium at time of 
discharge was 125. She has been advised to continue a low sodium 
diet and free water restriction to ___ liters daily.
 
# ALCOHOLISM: Patient has been trying to cut back recently, but 
reports daily heavy alcohol intake for the past ___ years; she has 
had withdrawal symptoms before but no seizures. Shakes and 
hallucinations.  Reports sobriety since prior admission. She 
will continue outpatient rehab.
  
# URINARY TRACT INFECTION: she was treated with a three-day 
course of empiric ceftriaxone for concern of UTI.

# BACK PAIN/ABDOMINAL PAIN: this was treated in house with 
lidocaine patches as needed and oxycodone as needed. She has 
been provided with a short course of Tramadol to take as needed 
until follow-up with her primary care provider. She understands 
that this is only a temporary medication and will be 
discontinued when her acute hepatitis resolves.

# Prophylaxis:  
-DVT ppx with SC heparin  
-Bowel regimen with lactulose, no PPI  
-Pain management with oxycodone and lidocaine patch  
# Communication: Patient  
# Code: presumed full
 
Medications on Admission:
Multivitamin, thiamine, folate, spironolactone 25mg daily, 
lidocaine patch prn, nicotine patch.
 
Discharge Medications:
1. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
5. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
6. Tramadol 50 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Alcoholic hepatitis.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital for alcoholic hepatitis. This 
is a condition in which your liver becomes inflamed due to 
excessive alcohol intake. You were also noted to have an 
elevated white cell count which can sometimes indicate 
infection. You were treated with a brief course of antibiotics 
for a urinary tract infection. Otherwise your blood and 
peritoneal fluid cultures remain negative.

We made the following changes to your medications: 
We stopped your spironolactone because your blood sodium levels 
were too low.
We added Tramadol to take as needed for back pain. 
 
Followup Instructions:
___